US07482341B2
1,1,1,3,3,3-Hexamethyl-2-(6-methyl-pyridin-2-yl)-disilazane (1.7 g) under an argon atmosphere in THF (20 mL) was cooled to −20° C. and treated dropwise at −20° C. with 6.73 mL of a 2 M solution of lithium diisopropylamide in THF/heptane/ethylbenzene (Fluka). The solution was stirred 1 h at −20° C., cooled to −70° C. and then treated with an access of dry ice. The mixture was allowed to warm to 0° C. and then quenched with trifluoro-acetic acid(0.57 ml) and concentrated in vacuo. The residue was taken up in MeOH and added dropwise to a solution of thionyl chloride (9.77 mL) in MeOH (30 ml) at 0° C. The reaction mixture was then heated to reflux for 24 h, cooled to RT and concentrated in vacuo. The residue was partitioned between aqueous diluted NaHCO3 and AcOEt, the layers were separated, the organic layer dried over Na2SO4, filtered, evaporated and the residue purified by flash chromatography (heptane/AcOEt 1:1) to give (6-amino-pyridin-2-yl)-acetic acid methyl ester as a crystalline off-white solid (0.429 g). MS (EI): 166.0 (M+).

reactant | 1,1,1,3,3,3-Hexamethyl-2-(6-methyl-pyridin-2-yl)-disilazane | 1.7 g | C[Si](N([Si](C)(C)C)C1=NC(=CC=C1)C)(C)C | C12H24N2Si2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
product | (6-amino-pyridin-2-yl)-acetic acid methyl ester | 0.429 g | COC(CC1=NC(=CC=C1)N)=O | C8H10N2O2
